US04108852
8-Chloro-4,5-dimethyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one
28.6 g 8-chloro-4-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one in 100 ml dimethylformamide is stirred with 18 g methyl iodide and 14 g anhydrous potassium carbonate for 2 hours on a boiling water bath. The reaction mixture is poured into 500 ml water and extracted with ether several times. The ethereal extracts are washed with water and dried over sodium sulfate. Upon distilling off the solvent, the crystalline residue is recrystallized from acetic acid ethyl ester. The yield is 24.5 g having an m.p. = 113°-114° C (82% of the theory).

reactant | 8-chloro-4-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | 28.6 g | ClC=1C=CC2=C(N(C(CC(N2)C)=O)C2=CC=CC=C2)C1 | C16H15ClN2O
reactant | methyl iodide | 18 g | CI | CH3I
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 8-Chloro-4,5-dimethyl-1-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-2-one | ClC=1C=CC2=C(N(C(CC(N2C)C)=O)C2=CC=CC=C2)C1 | C17H17ClN2O
